US09260413B2
A mixture of 5-(benzyloxy)-2-(2-chloropyridin-4-yl)-3-methylpyrimidin-4(3H)-one (3.5 g, 10.7 mmol), conc. aq. HBr (10 mL), and HOAc (50 mL) was heated at 100° C. for 2 h with stirring. After cooled to rt, the solid was filtered, washed with EtOAc several times, dried to give 5 g of crude compound, which was purified by prep-HPLC to give pure 2-(2-bromopyridin-4-yl)-5-hydroxy-3-methylpyrimidin-4(3H)-one (1.9 g, 623%). 1H-NMR δ (400 MHz, d6-DMSO): 9.88 (s, 1H), 8.52 (dd, J=5.6, 0.4 Hz, 1H), 7.86 (dd, J=5.2, 0.4 Hz, 1H), 7.65 (dd, J=5.2, 1.6 Hz, 1H), 7.54 (d, J=2.0 Hz, 1H), 3.33 (s, 3H); MS (ESI) m/z. (M+H)+ 282.

reactant | 5-(benzyloxy)-2-(2-chloropyridin-4-yl)-3-methylpyrimidin-4(3H)-one | 10.7 mmol, 3.5 g | C(C1=CC=CC=C1)OC=1C(N(C(=NC1)C1=CC(=NC=C1)Cl)C)=O | C17H14ClN3O2
reactant | HBr | 10 mL | Br | BrH
solvent | HOAc | 50 mL | CC(=O)O | C2H4O2
product | 2-(2-bromopyridin-4-yl)-5-hydroxy-3-methylpyrimidin-4(3H)-one | 1.9 g, 623% | BrC1=NC=CC(=C1)C1=NC=C(C(N1C)=O)O | C10H8BrN3O2
